US09238640B2
To a suspension of sodium hydride (0.426 g, 10.7 mmol) in DMF (30 mL) at room temperature was added 3-hydroxybenzaldehyde (1.00 g, 8.20 mmol). The resulting suspension was stirred at room temperature for 1 hour and (2-bromo-ethoxy)-tert-butyl-dimethyl-silane (4.4 mL, 20.5 mmol), was then added. The resulting mixture was stirred at 60° C. under nitrogen for 14 hours, cooled to room temperature, diluted with water (100 mL), extracted with ethyl acetate (250 mL), and concentrated. The crude product was purified by column chromatography (SiO2, hexane/ethyl acetate=4:1) to afford 3-[2-(tert-butyl-dimethyl-silanyloxy)-ethoxy]-benzaldehyde. It was re-dissolved in THF (50 mL), mixed with 1 N tetra-n-butylammonium fluoride in THF (15 mL), and stirred at room temperature for 8 h. The reaction mixture was then concentrated and the residue was purified by column chromatography (SiO2, hexane/ethyl acetate=4:1) to afford 3-(2-hydroxy-ethoxy)-benzaldehyde as a colorless oil. Yield: 0.68 g (50% for two steps).

reactant | sodium hydride | 10.7 mmol, 0.426 g | [H-].[Na+]
reactant | 3-hydroxybenzaldehyde | 8.20 mmol, 1.00 g | OC=1C=C(C=O)C=CC1 | C7H6O2
reactant | (2-bromo-ethoxy)-tert-butyl-dimethyl-silane | 20.5 mmol, 4.4 mL | BrCCO[Si](C)(C)C(C)(C)C | C8H19BrOSi
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | water | 100 mL | O | H2O
product | 3-[2-(tert-butyl-dimethyl-silanyloxy)-ethoxy]-benzaldehyde | C(C)(C)(C)[Si](OCCOC=1C=C(C=O)C=CC1)(C)C | C15H24O3Si
